US07943652B2
To a cooled (0° C.) solution of 2-(4-bromophenyl)piperazine (4.07 g, 16.0 mmol) and triethylamine (17 mL, 122 mmol) in acetone (50 mL) was added a solution of methyl iodide (1.4 mL, 22 mmol) in acetone (20 mL) over 50 min and the reaction mixture was stirred at 0° C. for 15 minutes, warmed to room temperature, and stirred for 16 h. The reaction mixture was slowly treated with saturated ammonium chloride (150 mL) and extracted with ethyl acetate (200 mL×3). The organic layers were combined, dried over magnesium sulfate, filtered and concentrated in vacuo. Purification via flash silica gel column chromatography (heptane/ethyl acetate) gave 3-(4-bromo-phenyl)-1-methyl-piperazine (1.89 g, 46% yield). LCMS (m/z): 257.00 (M+1).

reactant | 2-(4-bromophenyl)piperazine | 16.0 mmol, 4.07 g | BrC1=CC=C(C=C1)C1NCCNC1 | C10H13BrN2
reactant | triethylamine | 122 mmol, 17 mL | C(C)N(CC)CC | C6H15N
reactant | methyl iodide | 22 mmol, 1.4 mL | CI | CH3I
reactant | ammonium chloride | 150 mL | [Cl-].[NH4+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 3-(4-bromo-phenyl)-1-methyl-piperazine | 1.89 g, 46% yield | BrC1=CC=C(C=C1)C1CN(CCN1)C | C11H15BrN2
